US07576203B2
Acetonitrile (450 mL) and potassium carbonate (85.7 g, 0.62 mol) were added to 1-[2-(benzimidazol-2-ylthio)ethyl]piperazine.3 hydrochloride (59.42 g, 0.16 mol) in water (180 mL). Subsequently, 2-bromo-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide (48.19 g, 0.15 mol) was gradually added thereto, and the resultant mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with water (300 mL), followed by stirring for 1 hour. The crystals that precipitated were separated through filtration, followed by washing with a solvent mixture (600 mL) of acetonitrile and water (1:1), washing with water (200 mL), and drying through air blow at 40 to 50° C., to thereby yield 2-[4-[2-(benzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide as colorless crystals (75 g, yield: 99%).

reactant | potassium carbonate | 0.62 mol, 85.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[2-(benzimidazol-2-ylthio)ethyl]piperazine | N1=C(NC2=C1C=CC=C2)SCCN2CCNCC2 | C13H18N4S
reactant | hydrochloride | 0.16 mol, 59.42 g | Cl | ClH
reactant | 2-bromo-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide | 0.15 mol, 48.19 g | BrCC(=O)NC=1C(=NC(=CC1SC)C)SC | C10H13BrN2OS2
solvent | water | 180 mL | O | H2O
solvent | water | 300 mL | O | H2O
solvent | Acetonitrile | 450 mL | C(C)#N | C2H3N
product | 2-[4-[2-(benzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide | 75 g, yield: 99% | N1=C(NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2SC)C)SC | C23H30N6OS3
